US08034811B2
2-[(Benzofuran-5-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from anthranilic acid and 1-benzofuran-5-carbaldehyde (Maybridge). 13C-NMR (DMSO-d6) δ 169.9, 153.5, 150.6, 146.3, 134.3, 133.9, 131.6, 127.3, 123.6, 119.5, 114.4, 111.6, 111.2, 110.2, 106.6, 45.8.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 1-benzofuran-5-carbaldehyde | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
product | 2-[(Benzofuran-5-ylmethyl)-amino]-benzoic acid | O1C=CC2=C1C=CC(=C2)CNC2=C(C(=O)O)C=CC=C2 | C16H13NO3
